US05863952
(±) cis-1-(3,4-Dichlorobenzyl)-2-(N-methyl-N-tert-butoxycarbonylamino)indane
To a suspension of sodium hydride (80% disp. in oil, 130 mg, 4.2 mmol) in dry N,N-dimethylformamide (6 ml) under nitrogen was added dropwise a solution of (±) cis-1-(3,4-dichlorobenzyl)-2-tert-butoxycarbonylaminoindane (1.65 g, 4.2 mmol) in N, N-dimethylformamide (10 ml). After stirring the mixture for 30 minutes at room temperature, iodomethane (0.28 ml, 4.5 mmol) was added dropwise and stirring continued for a further 1 h. The reaction mixture was then poured into a large excess of sat. ammonium chloride and extracted with diethyl ether (3×40 ml). The combined organic extracts were dried over sodium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel eluting with 10% diethyl ether in hexanes to afford the title compound as a colourless oil (1.02 g).

reactant | sodium hydride | 4.2 mmol, 130 mg | [H-].[Na+]
reactant | (±) cis-1-(3,4-dichlorobenzyl)-2-tert-butoxycarbonylaminoindane | 4.2 mmol, 1.65 g | ClC=1C=C(C[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=CC1Cl | C21H23Cl2NO2
reactant | iodomethane | 4.5 mmol, 0.28 ml | IC | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | N, N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (±) cis-1-(3,4-Dichlorobenzyl)-2-(N-methyl-N-tert-butoxycarbonylamino)indane | 1.02 g | ClC=1C=C(C[C@H]2[C@H](CC3=CC=CC=C23)N(C(=O)OC(C)(C)C)C)C=CC1Cl | C22H25Cl2NO2
